US04515626
Production of 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine (intermediate)
25.3 g of 2-amino-4-cyclopropyl-6-trichloromethyl-1,3,5-triazine are added to a solution of 10.8 g of sodium methylate in 50 ml of methanol, and the mixture is stirred at 60° C. for 80 minutes. There are added 300 ml of water, and the formed suspension is filtered. The filter residue is suspended twice in 100 ml of acetyl acetate each time, and again filtered. The organic phases are collected, dried over magnesium sulfate and concentrated by evaporation to thus obtain an oil, which crystallises when stirred up in ether. The yield is 6.7 g of the title compound, m.p. 158°-159° C.

reactant | 2-amino-4-cyclopropyl-6-trichloromethyl-1,3,5-triazine | 25.3 g | NC1=NC(=NC(=N1)C1CC1)C(Cl)(Cl)Cl | C7H7Cl3N4
reactant | sodium methylate | 10.8 g | C[O-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine | NC1=NC(=NC(=N1)C1CC1)OC | C7H10N4O
